US06297375B1
e) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide
A solution of 12.2 g (55.8 mmol) [4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-amine and 15.3 ml (89 mmol) N-ethyldiisopropylamine in 130 ml dichloromethane was cooled in an ice bath and a solution of 19 g (59.6 mmol)2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride in 30 ml dichloromethane was added dropwise. The reaction mixture was warmed to 35-40° C. for 20 h, cooled to room temperature again and was stirred with 250 ml saturated sodium bicarbonate solution. The organic layer was separated and the aqueous phase was extracted with dichloromethane. The combined organic layers were dried (magnesium sulfate) and evaporated. The residue was purified by flash chromatography to give 24.7 g (88%) of the title compound as white crystals.

reactant | [4-(2-chloro-phenyl)-pyridin-3-yl]-methyl-amine | 55.8 mmol, 12.2 g | ClC1=C(C=CC=C1)C1=C(C=NC=C1)NC | C12H11ClN2
reactant | N-ethyldiisopropylamine | 89 mmol, 15.3 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 59.6 mmol, 19 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 24.7 g, 88% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC=CC1C1=C(C=CC=C1)Cl)(C)C)(F)F | C24H19ClF6N2O
